US05122523
29.4 mg of (4S,5R or S)-3-tert-butoxycarbonyl-4-cyclohexylmethyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-methylthioethyl]oxazolidine was dissolved in 0.3 ml of dioxane, and 0.42 ml of a dioxane solution of 3.6M hydrogen chloride was added thereto. From the reaction solution, the solvent was distilled off under reduced pressure to obtain 22.5 mg of (2RS,3R or S,4S)-4-amino-5-cyclohexyl-1-methylthio-2,3-pentanediol hydrochloride as colorless oily substance.

reactant | 3-tert-butoxycarbonyl-4-cyclohexylmethyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-methylthioethyl]oxazolidine | C(C)(C)(C)OC(=O)N1C(OC(C1CC1CCCCC1)C(CSC)O)(C)C | C20H37NO4S
reactant | hydrogen chloride | 3.6M | Cl | ClH
solvent | dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.42 ml | O1CCOCC1 | C4H8O2
product | 4-amino-5-cyclohexyl-1-methylthio-2,3-pentanediol hydrochloride | Cl.NC(C(C(CSC)O)O)CC1CCCCC1 | InChI=1S/C12H25NO2S.ClH/c1-16-8-11(14)12(15)10(13)7-9-5-3-2-4-6-9;/h9-12,14-15H,2-8,13H2,1H3;1H
